US04177257
3-(5-Tetrazolyl)dibenzothiophene-5,5-dioxide
3-Aminodibenzothiophene-5,5-dioxide hydrochloride (11.80 g) was diazotised and converted to the crude nitrile as described in Example 24. The crude material was dissolved in chloroform and passed down a column of silica gel (500 g), eluting with chloroform. Evaporation of the solvent gave a mixture of amine and nitrile which was dissolved in dimethyl formamide (30 ml) and treated with sodium azide (1.3 g) and ammonium chloride (1.1 g). After heating on a steam bath for 6 hrs., the solution was diluted with water. The solid precipitate was filtered off and treated with aqueous sodium hydroxide solution (10 ml; 2.5%) at 80° C., filtered, and the filtrate acidified with hydrochloric acid. The product was filtered off, recrystallised from acetic acid and dried at 155° C./15 mm. Hg. m.p. 275° C. (decomposed).

reactant | 3-Aminodibenzothiophene-5,5-dioxide hydrochloride | 11.80 g | Cl.NC=1C=CC2=C(S(C3=C2C=CC=C3)(=O)=O)C1
reactant | sodium azide | 1.3 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.1 g | [Cl-].[NH4+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(5-Tetrazolyl)dibenzothiophene-5,5-dioxide | N1N=NN=C1C=1C=CC2=C(S(C3=C2C=CC=C3)(=O)=O)C1 | C13H8N4O2S
